US04518596
8-(3,4-Dichlorobenzyl-amino)-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 168 from 2-chloro-8-(3,4-dichlorobenzyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 259°-261° C.) and piperazine.

reactant | 2-chloro-8-(3,4-dichlorobenzyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NCC2=CC(=C(C=C2)Cl)Cl)N2CCS(CC2)=O | C17H15Cl3N6OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(3,4-Dichlorobenzyl-amino)-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | ClC=1C=C(CNC2=NC=NC3=C2N=C(N=C3N3CCS(CC3)=O)N3CCNCC3)C=CC1Cl | C21H24Cl2N8OS
